US08703761B2
C. 2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]4-phenyl-thiazole-5-carboxylic acid ethyl ester
A mixture of 2-(2-Amino-2-methyl-propionylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester (249 mg, 0.748 mmol), triethylamine (300 uL. 2.16 mmol) and 4-fluorobenzoyl chloride (135 uL, 1.13 mmol) in dichloromethane (3 mL) was stirred at RT for 2 h and partitioned between ethyl acetate and aq. K2CO3. The organic extract was dried over MgSO4, concentrated and chromatographed to give the title compound. m/z 456.1 (MH+).

reactant | 2-(2-Amino-2-methyl-propionylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.748 mmol, 249 mg | C(C)OC(=O)C1=C(N=C(S1)NC(C(C)(C)N)=O)C1=CC=CC=C1 | C16H19N3O3S
reactant | triethylamine | 2.16 mmol, 300 uL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 1.13 mmol, 135 uL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]4-phenyl-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)NC(C(C)(C)NC(C1=CC=C(C=C1)F)=O)=O)C1=CC=CC=C1 | C23H22FN3O4S
